US07592373B2
1.34.b. 3-{4-[4-(1-hydroxy-1-methylethyl)piperidin-1-ylmethyl]phenyl}propynoic acid-(4′-chlorobiphenyl-4-yl)amide
Prepared analogously to Example 1.1.d. from 2-[1-(4-iodobenzyl)piperidin-4-yl]propan-2-ol and propynoic acid-(4′-chlorobiphenyl-4-yl)amide. Yield: 45 mg (30% of theory); melting point: 194-195° C.; C30H31ClN2O2 (M=487.04); calc.: molecular ion peak (M+H)+: 487/489; found: molecular ion peak (M+H)+: 487/489; Rf value: 0.3 (silica gel, dichloromethane/methanol/ammonia (10:1:0.1)).

reactant | 2-[1-(4-iodobenzyl)piperidin-4-yl]propan-2-ol | IC1=CC=C(CN2CCC(CC2)C(C)(C)O)C=C1 | C15H22INO
reactant | propynoic acid-(4′-chlorobiphenyl-4-yl)amide | ClC1=CC=C(C=C1)C1=CC=C(C=C1)NC(C#C)=O | C15H10ClNO
reactant | dichloromethane methanol ammonia | ClCCl.CO.N
product | 3-{4-[4-(1-hydroxy-1-methylethyl)piperidin-1-ylmethyl]phenyl}propynoic acid-(4′-chlorobiphenyl-4-yl)amide | ClC1=CC=C(C=C1)C1=CC=C(C=C1)NC(C#CC1=CC=C(C=C1)CN1CCC(CC1)C(C)(C)O)=O | C30H31ClN2O2
